US08541429B2
Step 2. 5,5-dimethyl-cyclohex-2-enone
A solution of 3-methoxy-5,5-dimethyl-cyclohex-2-enone (80 g, 0.52 mol) in anhydrous tetrahydrofuran (270 mL) was treated dropwise with a 1M solution of LiAlH4 in tetrahydrofuran (182 mL), under argon atmosphere and keeping the temperature of the reaction between 0° C. and 5° C. The temperature was allowed to rise to 25° C. and the mixture was stirred for 4 hours. The resulting slurry was cooled with an ice bath, quenched with ethyl acetate (30 mL) and poured with caution into a cooled 2 M H2SO4 solution. The aqueous solution was then extracted with diethyl ether (300 mL×3), dried on Na2SO4 and evaporated under reduced pressure to remove most of the solvent. The crude material contained the title compound as a low boiling point oil that was used in the next step without further purification.

reactant | 3-methoxy-5,5-dimethyl-cyclohex-2-enone | 0.52 mol, 80 g | COC1=CC(CC(C1)(C)C)=O | C9H14O2
reactant | LiAlH4 | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | tetrahydrofuran | 270 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 182 mL | O1CCCC1 | C4H8O
product | 5,5-dimethyl-cyclohex-2-enone | CC1(CC=CC(C1)=O)C | C8H12O
